US04695578
1,2,3,9-Tetrahydro-9-methyl-3-[(2-methyl-1H-imidazol-1-yl)methyl]-4H-carbazol-4-one
A solution of 3-[(dimethylamino)methyl]-1,2,3,9-tetrahydro-9-methyl-4H-carbazol-4-one hydrochloride (1.7 g) in water (17 ml) was treated with 2-methylimidazole (1.4 g) and then heated under reflux for 20 h. The cooled mixture was filtered and the residue washed with water (3×15 ml) to give crude product (1.7 g) m.p. 221°-221.5°. This material was recrystallised from methanol to give the title compound (1.4 g) m.p. 231°-232°, identical by t.l.c. with product from Example 4.

reactant | 3-[(dimethylamino)methyl]-1,2,3,9-tetrahydro-9-methyl-4H-carbazol-4-one hydrochloride | 1.7 g | Cl.CN(C)CC1CCC=2N(C3=CC=CC=C3C2C1=O)C
reactant | 2-methylimidazole | 1.4 g | CC=1NC=CN1 | C4H6N2
solvent | water | 17 ml | O | H2O
product | 1,2,3,9-Tetrahydro-9-methyl-3-[(2-methyl-1H-imidazol-1-yl)methyl]-4H-carbazol-4-one | 1.4 g | CN1C2=CC=CC=C2C=2C(C(CCC12)CN1C(=NC=C1)C)=O | C18H19N3O
